US09315459B2
Ethyl 4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate
Trifluoroacetic acid (2.8 kg, 24.9 mol) and triethylsilane (362 g, 3.1 mol) was charged in a reactor with an efficient stirrer. Ethyl 4-hydroxy-4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate (462 g, 1.24 mol) was added via a powder funnel in portions. The reaction was slightly exothermic. The temperature rose to 50° C. After the addition was finalised the reaction mixture was warmed to 60° C. for 18 hours. The reaction mixture was cooled down to room temperature. Toluene (750 mL) and water (750 mL) was added. The organic phase was isolated and the aqueous phase was extracted with another portion of toluene (750 mL). The organic phases were combined and washed with sodium chloride solution (15%, 500 mL) and dried over sodium sulphate. The sodium sulphate was filtered off, the filtrate evaporated at reduced pressure to a red oil which was processed further in the next step.

reactant | Trifluoroacetic acid | 24.9 mol, 2.8 kg | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3.1 mol, 362 g | C(C)[SiH](CC)CC | C6H16Si
reactant | Ethyl 4-hydroxy-4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate | 1.24 mol, 462 g | OC1(CCN(CC1)C(=O)OCC)C1=C(C=CC=C1)SC1=CC=C(C=C1)C | C21H25NO3S
reactant | Toluene | 750 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 750 mL | O | H2O
product | Ethyl 4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate | C1(=CC=C(C=C1)SC1=C(C=CC=C1)C1CCN(CC1)C(=O)OCC)C | C21H25NO2S
